US08389523B2
14.3 g (41.8 mmol) of ethyl 5-fluoro-1-(4-methoxyphenyl)-2-oxo-1,2-dihydroquinoxaline-3-carboxylate was dissolved in ethanol (100 ml), and 10.0 g (62.5 mmol) of a 25% aqueous solution of sodium hydroxide was added thereto. The mixture was stirred for 2 hours at room temperature. The reaction mixture was concentrated under reduced pressure, and water was added to the residue thus obtained. The mixture was acidified using 10% hydrochloric acid. A solid precipitated therefrom was separated by filtration, washed with water, and then dried, to obtain 11.1 g (yield: 84%) of 5-fluoro-1-(4-methoxyphenyl)-2-oxo-1,2-dihydroquinoxaline-3-carboxylic acid as a pale yellow powder.

reactant | ethyl 5-fluoro-1-(4-methoxyphenyl)-2-oxo-1,2-dihydroquinoxaline-3-carboxylate | 41.8 mmol, 14.3 g | FC1=C2N=C(C(N(C2=CC=C1)C1=CC=C(C=C1)OC)=O)C(=O)OCC | C18H15FN2O4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 5-fluoro-1-(4-methoxyphenyl)-2-oxo-1,2-dihydroquinoxaline-3-carboxylic acid | 11.1 g, yield: 84% | FC1=C2N=C(C(N(C2=CC=C1)C1=CC=C(C=C1)OC)=O)C(=O)O | C16H11FN2O4
